US08624040B2
To a solution of ethyl 2-mercaptoacetate (5.52 g, 0.046 mol) and triethylamine (5.52 g, 0.055 mol) in acetonitrile (100 mL) at room temperature was added 1-(4-chloropyridin-3-yl)ethanone (6.5 g, 0.042 mol). The reaction mixture was heated at reflux for 18 hours. Upon cooling to room temperature, the solvent was evaporated and the residue obtained partitioned between ethyl acetate and water. The organic layer was dried over anhydrous NaHSO4, filtered and concentrated. The oily residue was passed through a pad of silica (ethyl acetate/hexane: 5/1) to afford ethyl 3-methylthieno[3,2-c]pyridine-2-carboxylate (1.6 g, 22%). LCMS (FA) ES+ 222; 1H NMR (400 MHz, CDCl3) δ 9.10 (s, 1H), 8.50 (d, J=5.6 Hz, 1H), 7.98 (d, J=17.6 Hz, 1H), 4.37 (d, J=7.2 Hz, 2H), 3.58 (t, J=5.9 Hz, 2H), 1.38 (d, J=7.2 Hz, 3H).

reactant | ethyl 2-mercaptoacetate | 0.046 mol, 5.52 g | SCC(=O)OCC | C4H8O2S
reactant | triethylamine | 0.055 mol, 5.52 g | C(C)N(CC)CC | C6H15N
reactant | 1-(4-chloropyridin-3-yl)ethanone | 0.042 mol, 6.5 g | ClC1=C(C=NC=C1)C(C)=O | C7H6ClNO
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | ethyl 3-methylthieno[3,2-c]pyridine-2-carboxylate | 1.6 g, 22% | CC1=C(SC2=C1C=NC=C2)C(=O)OCC | C11H11NO2S
